US07255779B2
Into a reaction flask were introduced 176.4 g of iron powder, 43.5 g of acetic acid, 71.2 g of water and 273.3 g of toluene. The content of the flask was heated to 80° C. Then, a solution of 131.8 g of methyl 4-methyl-3-nitrobenzoate in 110.4 g of DMF was dropwise added into the above-mentioned mixed solution over a period of about one hour, after which the resulting mixture was stirred for an additional 4 hours at 80° C. After cooling the reaction mixture, the solid material was removed by filtration. The filtrate was washed with 5% aqueous solution of NaOH, and washed with 5% aqueous solution of hydrochloric acid and water, and then the toluene was distilled off to obtain a brown-colored solid product. Then, 164.3 g of cyclohexane was added to dissolve the solid product at about 80° C. The resulting solution was cooled to room temperature, and the deposited crystalline material was collected by filtration and dried to obtain 73.8 g (yield 80.0%) of methyl indole-6-carboxylate monomer.

reactant | acetic acid | 43.5 g | C(C)(=O)O | C2H4O2
reactant | water | 71.2 g | O | H2O
reactant | toluene | 273.3 g | C1(=CC=CC=C1)C | C7H8
reactant | methyl 4-methyl-3-nitrobenzoate | 131.8 g | CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO4
solvent | DMF | 110.4 g | CN(C)C=O | C3H7NO
catalyst | iron | 176.4 g | [Fe] | Fe
solvent | cyclohexane | 164.3 g | C1CCCCC1 | C6H12
product | methyl indole-6-carboxylate | 73.8 g, yield 80.0% | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
